US07893267B2
An aqueous solution (5.1 mL) of sodium nitrite (4.5 mmol, 311 mg) was cooled in an ice bath and added to a mixture of 694 mg (4.5 mmol) of 4-amino-benzoic acid methyl ester in 2.36 N aq. HCl (7.5 mL) at 0° C. The mixture was stirred at 0° C. for 30 min, and the reaction mixture was added to a mixture of 795 mg (4.5 mmol) of (1H-imidazol-4-yl)-acetic acid methyl ester hydrochloride in saturated aqueous sodium tetraborate solution (150 mL). The mixture was stirred at 0° C. for 1.5 h and slowly warmed up to room temperature. The 4-(4-Methoxycarbonylmethyl-1H-imidazol-2-ylazo)-benzoic acid methyl ester was obtained after filtering and washing with water in a quantitative yield. LCMS: 303 (M+1)+.

reactant | sodium nitrite | 4.5 mmol, 5.1 mL, 311 mg | N(=O)[O-].[Na+]
reactant | 4-amino-benzoic acid methyl ester | 4.5 mmol, 694 mg | COC(C1=CC=C(C=C1)N)=O | C8H9NO2
reactant | (1H-imidazol-4-yl)-acetic acid methyl ester hydrochloride | 4.5 mmol, 795 mg | Cl.COC(CC=1N=CNC1)=O
solvent | HCl | 2.36 N, 7.5 mL | Cl | ClH
solvent | sodium tetraborate | 150 mL | B([O-])([O-])[O-].B([O-])([O-])[O-].B([O-])([O-])[O-].B([O-])([O-])[O-].[Na+].[Na+].[Na+].[Na+].[Na+].[Na+].[Na+].[Na+].[Na+].[Na+].[Na+].[Na+]
product | 4-(4-Methoxycarbonylmethyl-1H-imidazol-2-ylazo)-benzoic acid methyl ester | quantitative yield | COC(C1=CC=C(C=C1)N=NC=1NC=C(N1)CC(=O)OC)=O | C14H14N4O4
